US04457875
2,4,5-trimethoxy nitrobenzene:
Into a two liter flask, provided with a cooling device, were introduced successively a solution of methanolic potash (100 g of KOH and 500 cm3 of methanol), then 100 g (0.46 mole) of 4,5-dimethoxy 2-nitro chlorobenzene and carborundum. The mixture was brought to boiling under reflux for 6 h. After cooling, the reaction medium was filtered; the precipitate obtained was washed with methanol.

reactant | 4,5-dimethoxy 2-nitro chlorobenzene | 0.46 mole, 100 g | COC1=CC(=C(C=C1OC)Cl)[N+](=O)[O-] | C8H8ClNO4
reactant | carborundum | [C-]#[Si+] | CSi
reactant | potash | 500 cm3, 100 g | C(=O)([O-])[O-].[K+].[K+]
product | 2,4,5-trimethoxy nitrobenzene | COC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-] | C9H11NO5
